US06525070B2
4-Carbamoyl-5-methanesulfonyl-thiophene-2-carboxylic acid
To 4-cyano-5-methanesulfonyl-thiophene-2-carboxylic acid methyl ester (0.5 g) in THF/H2O (3:1; 16 ml) was added LiOH (0.102 g). Hydrochloric acid (2M) was added and the resulting mixture was extracted with ethyl acetate. The extracts were combined and the solvent evaporated to leave a mixture of 4-cyano-5-methanesulfonyl-thiophene-2-carboxylic acid and the title compound. This mixture was used without further purification. 1H NMR (299.944 MHz, DMSO-D6) δ 3.62 (3H, s), 7.99 (1H, s).

reactant | 4-cyano-5-methanesulfonyl-thiophene-2-carboxylic acid methyl ester | 0.5 g | COC(=O)C=1SC(=C(C1)C#N)S(=O)(=O)C | C8H7NO4S2
reactant | LiOH | 0.102 g | [Li+].[OH-]
reactant | Hydrochloric acid | 2M | Cl | ClH
reactant | 4-cyano-5-methanesulfonyl-thiophene-2-carboxylic acid | C(#N)C=1C=C(SC1S(=O)(=O)C)C(=O)O | C7H5NO4S2
solvent | THF H2O | 16 ml | C1CCOC1.O
product | 4-Carbamoyl-5-methanesulfonyl-thiophene-2-carboxylic acid | C(N)(=O)C=1C=C(SC1S(=O)(=O)C)C(=O)O | C7H7NO5S2
